US07781453B2
G2. 2-Amino-5-(4-dimethylamino-phenyl)-3-nitro-pyridine
4.36 g of 2-amino-5-bromo-3-nitropyridine are dissolved in 73 ml of anoxic dioxane under a nitrogen atmosphere. Subsequently, 60 ml of an aqueous sodium bicarbonate solution (2.0 M), 7.3 g of 4-dimethylaminophenyl-boronic acid, and 0.886 g of trans-dichloro-bis(tricyclohexylphosphane)palladium-(II) are added. The reaction mixture is refluxed at 110° C. for 19 hours. Thereafter, the volatile components are removed in vacuo and the remaining residue is redissolved in 1.0 l of a mixture of water/dichloromethane (1:1). The aqueous phase is extracted four times each with 500 ml of dichloromethane. The organic layer is separated, dried using sodium sulfate, and evaporated to dryness to yield a colorless, crude solid. Subsequently, the residue is purified by flash chromatography on silica gel (eluent: dichloromethane/ethanol 50:1) to afford 3.41 g of the title compound as a colorless solid of m.p. 212° C. MS: 259.2 (MH+). TLC: Rf=0.55 (dichloromethane/ethanol 50:1).

reactant | 2-amino-5-bromo-3-nitropyridine | 4.36 g | NC1=NC=C(C=C1[N+](=O)[O-])Br | C5H4BrN3O2
reactant | sodium bicarbonate | 2.0 M, 60 ml | C([O-])(O)=O.[Na+]
reactant | 4-dimethylaminophenyl-boronic acid | 7.3 g | CN(C1=CC=C(C=C1)B(O)O)C | C8H12BNO2
solvent | dioxane | 73 ml | O1CCOCC1 | C4H8O2
product | 2-Amino-5-(4-dimethylamino-phenyl)-3-nitro-pyridine | 3.41 g | NC1=NC=C(C=C1[N+](=O)[O-])C1=CC=C(C=C1)N(C)C | C13H14N4O2
